US06566546B2
Preparation of 2-methyl-4-acetaminobiphenyl
225 g of sodium carbonate and 0.15 g of PdCl2(PPh3)2 in 450 ml of methanol are heated to reflux temperature. A solution of 342 g of 4-bromo-3-methylacetanilide and 270 g of the ethylene glycol ester of phenylboronic acid in 225 ml of methanol, which has been heated to 50° C., is added dropwise over a period of 60 minutes. During the addition, methanol is distilled off in such an amount that the internal temperature can be kept at at least 85° C. After addition is complete, a further 0.1 g of the Pd catalyst is added and the reaction mixture is refluxed for another 6 hours. After this time, the monitoring of the reaction by HPLC indicates a conversion of 99.9%. The remaining methanol is distilled off as completely as possible (620 ml), with the reaction mixture having to remain stirrable. 1250 ml of chlorobenzene are subsequently added. Hydrolysis is carried out by addition of 85 ml of water. At 70-80° C., the phases are separated and the aqueous phase is discarded. The organic phase is washed once with 50 ml of water and is subsequently filtered through a 0.5 cm thick layer of aluminum oxide. The chlorobenzene is distilled off at 300-500 mbar. The residue of crude 2-methyl-4-acetaminobiphenyl which remains is used further without further purification. The yield is quantitative.

reactant | sodium carbonate | 225 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-bromo-3-methylacetanilide | 342 g | CC1=C(C=CC(=C1)NC(=O)C)Br | C9H10BrNO
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | water | 85 ml | O | H2O
solvent | methanol | 450 ml | CO | CH4O
solvent | methanol | 225 ml | CO | CH4O
catalyst | PdCl2(PPh3)2 | 0.15 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-methyl-4-acetaminobiphenyl | CC1=C(C=CC(=C1)NC(=O)C)C1=CC=CC=C1 | C15H15NO
